US07462612B2
4-(2-Chloro-5-methylpyridin-4-yl)-1-(2,4,6-trimethylbenzensulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester:
4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2,4,6-trimethylbenzensulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester (125 mg, 0.29 mmol, 0.6 equiv.) and 4-bromo-2-chloro-5-methylpyridine (96 mg, 0.47 mmol, 1.0 equiv.) were dissolved in benzene (4 mL). After adding methanol (0.94 mL) and aqueous Na2CO3, Pd(PPh3)4 (108 mg, 0.094 mol, 0.2 equiv.) was then added and the resulting mixture was heated at reflux for 16 hours. The reaction mixture was dissolved in ethyl acetate and washed with water. After drying the organic layer over Na2SO4, the solvent was removed under reduced pressure. The crude material was purified by reversed phase HPLC (acetonitrile/water/TFA), yielding the title compound as a colorless solid (54 mg, 0.125 mmol, HPLC Rt 9.087 min, ES+433.0, ES−431.0).

reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2,4,6-trimethylbenzensulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester | 0.29 mmol, 125 mg, 0.6 equiv. | COC(=O)C=1N(C=C(C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C21H28BNO6S
reactant | 4-bromo-2-chloro-5-methylpyridine | 0.47 mmol, 96 mg, 1.0 equiv. | BrC1=CC(=NC=C1C)Cl | C6H5BrClN
reactant | methanol | 0.94 mL | CO | CH4O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.094 mol, 108 mg, 0.2 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-Chloro-5-methylpyridin-4-yl)-1-(2,4,6-trimethylbenzensulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester | 0.125 mmol, 54 mg | COC(=O)C=1N(C=C(C1)C1=CC(=NC=C1C)Cl)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C21H21ClN2O4S
